Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / IV Dye, Iodine Containing / Fosamax / Cymbalta
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
LABORATORY RESULTS:

___ 01:30PM BLOOD WBC-10.7* RBC-3.01* Hgb-6.7* Hct-23.3* 
MCV-77* MCH-22.3* MCHC-28.8* RDW-17.2* RDWSD-48.5* Plt ___
___ 11:59AM BLOOD WBC-9.2 RBC-2.88* Hgb-6.5* Hct-22.1* 
MCV-77* MCH-22.6* MCHC-29.4* RDW-17.0* RDWSD-47.4* Plt ___
___ 07:10PM BLOOD WBC-13.7* RBC-2.99* Hgb-7.0* Hct-23.3* 
MCV-78* MCH-23.4* MCHC-30.0* RDW-16.9* RDWSD-47.9* Plt ___
___ 06:07AM BLOOD WBC-9.9 RBC-3.13* Hgb-7.5* Hct-24.9* 
MCV-80* MCH-24.0* MCHC-30.1* RDW-16.9* RDWSD-48.3* Plt ___
___ 06:50AM BLOOD WBC-10.9* RBC-3.38* Hgb-8.1* Hct-27.0* 
MCV-80* MCH-24.0* MCHC-30.0* RDW-17.3* RDWSD-50.9* Plt ___
___ 06:25AM BLOOD WBC-10.3* RBC-3.50* Hgb-8.4* Hct-28.4* 
MCV-81* MCH-24.0* MCHC-29.6* RDW-17.7* RDWSD-51.8* Plt ___
___ 01:30PM BLOOD Neuts-58.0 ___ Monos-6.6 Eos-5.6 
Baso-0.7 Im ___ AbsNeut-6.19* AbsLymp-3.06 AbsMono-0.70 
AbsEos-0.60* AbsBaso-0.07
___ 11:59AM BLOOD Neuts-61.7 ___ Monos-6.8 Eos-5.2 
Baso-0.5 Im ___ AbsNeut-5.68 AbsLymp-2.34 AbsMono-0.63 
AbsEos-0.48 AbsBaso-0.05
___ 01:30PM BLOOD UreaN-9 Creat-0.6 Na-142 K-4.0 Cl-102 
HCO3-24 AnGap-16
___ 06:07AM BLOOD Glucose-105* UreaN-8 Creat-0.5 Na-141 
K-3.4* Cl-105 HCO3-24 AnGap-12
___ 01:30PM BLOOD ALT-9 AST-12 AlkPhos-151* TotBili-0.2
___ 11:59AM BLOOD ALT-7 AST-11 LD(LDH)-207 AlkPhos-132* 
Amylase-44 TotBili-<0.2
___ 01:30PM BLOOD Calcium-9.9 Iron-12*
___ 11:59AM BLOOD Albumin-3.7 Calcium-9.6 Phos-3.1 Mg-1.5* 
Iron-18*
___ 01:30PM BLOOD calTIBC-300 Ferritn-30 TRF-231
___ 01:30PM BLOOD PTH-78*
___ 01:30PM BLOOD 25VitD-28*
___ 01:30PM BLOOD RheuFac-44* CRP-187.7*
___ 06:15AM BLOOD IgG-751 IgA-168
 
Brief Hospital Course:
The patient had a transfusion of one unit of PRBCs on admission, 
with marked improvement in her symptoms. An EGD showed a hiatal 
hernia with no active bleeding. She was continued on her twice 
daily PPI. She will follow up with both her PCP and rheumatology 
for her new diagnosis of rheumatoid arthritis. Because NSAIDs 
are contraindicated, she was discharged with a short course of 
oxycodone (2.5 mg q8 hrs) as well as scheduled Tylenol. 

> 30 minutes spent on discharge activities, and patient examined 
on day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. Levalbuterol Neb 0.63 mg NEB Q4H:PRN shortness of breath 
3. Montelukast 10 mg PO DAILY PRN asthma 
4. Bisacodyl 5 mg PO DAILY:PRN Constipation - First Line 

 
Discharge Medications:
1.  Omeprazole 20 mg PO BID  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every eight hours as 
needed Disp #*21 Tablet Refills:*0 
3.  Bisacodyl 5 mg PO DAILY:PRN Constipation - First Line  
4.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
5.  Levalbuterol Neb 0.63 mg NEB Q4H:PRN shortness of breath  
6.  Montelukast 10 mg PO DAILY PRN asthma  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital with worsened anemia. Because 
of this, you had an endoscopy, which did not show any active 
bleeding, though did show a hiatal hernia. You will follow up 
with your primary care doctor and your rheumatologist for 
treatment of your rheumatoid arthritis. In the meantime, I will 
discharge you on a short course of oxycodone. Make sure to take 
Tylenol as well for your pain.
 
Followup Instructions:
___